US05780472
1-{[2-(5-ethyl-2-methoxy-6-methylpyridin-3-yl)ethyl]aminocarbonyl}-4-(2-methoxyphenyl)piperazine
Phenyl-N-(5-ethyl-2-methoxy-6-methylpyridin-3-yl)carbamate and 1-(2-methoxyphenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound.

reactant | Phenyl-N-(5-ethyl-2-methoxy-6-methylpyridin-3-yl)carbamate | C1(=CC=CC=C1)OC(NC=1C(=NC(=C(C1)CC)C)OC)=O | C16H18N2O3
reactant | 1-(2-methoxyphenyl)piperazine | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
product | 1-{[2-(5-ethyl-2-methoxy-6-methylpyridin-3-yl)ethyl]aminocarbonyl}-4-(2-methoxyphenyl)piperazine | yield: 63% | C(C)C=1C=C(C(=NC1C)OC)CCNC(=O)N1CCN(CC1)C1=C(C=CC=C1)OC | C23H32N4O3
